US05081112
3.94 Grams (20 mM) of 2-amino-5-bromobenzonitrile, 2.22 g (22 mM) of triethylamine and 0.49 g (4 mM) of 4-diethylaminopyridine were dissolved in 40 ml of anhydrous dichloromethane. To this solution was added dropwise 40 ml of anhydrous dichloromethane solution with 5.81 g (20 mM) of 4-diethoxyphosphinoylmethylbenzoyl chloride at 0° C. with stirring. After the stirring was continued for 10 hours at room temperature, 50 ml of water was added to the reaction mixture, and the whole mixture was extracted with chloroform. The chloroform extracts were dried over anhydrous sodium sulfate and concentrated. Thus obtained residue was purified by means of a silica gel column chromatography (eluted with chloroform:ethyl acetate=1:2). The crude crystals were recrystallized from benzene-n-hexane to yield 2.94 g of 4-diethoxyphosphinoylmethyl-N-(4-bromo-2-cyanophenyl)benzamide as colorless crystals.

reactant | 2-amino-5-bromobenzonitrile | 20 mM | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | triethylamine | 22 mM, 2.22 g | C(C)N(CC)CC | C6H15N
reactant | 4-diethylaminopyridine | 4 mM, 0.49 g | C(C)N(C1=CC=NC=C1)CC | C9H14N2
reactant | 4-diethoxyphosphinoylmethylbenzoyl chloride | 20 mM, 5.81 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)Cl)C=C1 | C12H16ClO4P
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 4-diethoxyphosphinoylmethyl-N-(4-bromo-2-cyanophenyl)benzamide | 2.94 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)NC2=C(C=C(C=C2)Br)C#N)C=C1 | C19H20BrN2O4P
